US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-{4-[(5-cyano-2-pyridinyl)oxy]benzyl}-2-hydroxypropylcarbamate (335)
A mixture of 59 mg (0.1 mMol) of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate, 120 mg of 2-chloro-5-cyanopyridine and 65 mg (0.2 mMol) of cesium carbonate in 0.5 mL of dimethyl formamide was stirred at rt for 5 h. The mixture was diluted with ethyl acetate and extracted with water. Evaporation of the solvent and chromatography on silica gel (1:1 ethyl acetate-hexanes) gave the title compound (16 mg). 1H NMR: 0.88(6H,dd), 1.55-1.8(3H,m), 2.8-3.2(7h,m), 3.65(2H,m), 3.8(2H,m), 3.95(1H,m), 5.0(2H,m), 5.6(1H,d), 6.05(2H,s), 6.82(1H,d), 6.95(1H,d), 7.0(2H,d), 7.1-7.4(4H,m), 7.9(1H,d), 8.4(1H,bs). MS: 695(M+H)

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.1 mMol, 59 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | 2-chloro-5-cyanopyridine | 120 mg | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | cesium carbonate | 0.2 mMol, 65 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-{4-[(5-cyano-2-pyridinyl)oxy]benzyl}-2-hydroxypropylcarbamate | 16 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OC2=NC=C(C=C2)C#N)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C34H38N4O10S
